US06413991B1
(S)-4-[2-Hydroxy-3-([4-(4-hydroxyphenoxy)phenyl]-2-methylpropylamino)propoxy]carbazole
4-(4-(2-Methyl-2-aminopropyl)phenoxy)phenol (0.40 g, 1.55 mmol) was combined with (S)-4-(oxiranylmethoxy)-9H-carbazole (0.250 g, 1.0 mmol) in EtOH (50 mL) and the mixture heated at 60° C. for 20 hours. The mixture was then concentrated in vacuo and the resulting residue chromatographed over silica (1-10% MeOH/CHCl3) which allowed for isolation of the product as the free base. The free base was then dissolved in minimal EtOAc and treated with diethyl ether (25 mL) saturated with HCl. Filtration and drying netted 0.410 g (76%) of product as the HCl salt. MS (FD+):497. m.p. 80-85° C. (dec). Anal. Calcd for C31H32N2O4.1.3HCl: C, 68.31; H, 6.16; N, 5.14. Found: C, 68.30; H, 6.75; N, 4.62.

reactant | 4-(4-(2-Methyl-2-aminopropyl)phenoxy)phenol | 1.55 mmol, 0.40 g | CC(CC1=CC=C(OC2=CC=C(C=C2)O)C=C1)(C)N | C16H19NO2
reactant | (S)-4-(oxiranylmethoxy)-9H-carbazole | 1.0 mmol, 0.250 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
solvent | EtOH | 50 mL | CCO | C2H6O
product | (S)-4-[2-Hydroxy-3-([4-(4-hydroxyphenoxy)phenyl]-2-methylpropylamino)propoxy]carbazole | O[C@H](COC1=CC=CC=2NC3=CC=CC=C3C12)CN(CC(C)C)C1=CC=C(C=C1)OC1=CC=C(C=C1)O | C31H32N2O4
